US05929085
(b) 1-Ethyl-3,4-dihydroisoquinoline
A mixture of N-(2-phenylethyl)-propionamide (10 g, 56.4 mmol) and phosphorus pentoxide (80 g, 563 mmol) in tetralin (500 ml) was heated at reflux for 15 min, cooled, further phosphorus pentoxide (80 g) was added and reflux was resumed for 15 min. After standing overnight the tetralin was decanted, the residue was decomposed with ice-water, the suspension was filtered through celite and washed with two portions of ether. The aqueous solution was basified with concentrated ammonium hydroxide, extracted with three portions of ether, the extracts were dried (MgSO4) and the solvent was evaporated giving a red solid (5.0 g, 55.7%); MS [M+H]+ 160.

reactant | N-(2-phenylethyl)-propionamide | 56.4 mmol, 10 g | C1(=CC=CC=C1)CCNC(CC)=O | C11H15NO
reactant | phosphorus pentoxide | 563 mmol, 80 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphorus pentoxide | 80 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | tetralin | 500 ml | C1CCCC2=CC=CC=C12 | C10H12
product | 1-Ethyl-3,4-dihydroisoquinoline | 5.0 g, 55.7% | C(C)C1=NCCC2=CC=CC=C12 | C11H13N
